US05354761
6,6'-Diamidino-4,4'-dimethyl-2,2'-bipyridine dihydrochloride
0.023 g (0.001 g-atom) of sodium are dissolved under nitrogen in 15 ml of absolute methanol. 2.34 g (0.01 mol) of 6,6'-dicyano-4,4'-dimethyl-2,2'-bipyridine are added to that solution, and the resulting mixture is stirred at room temperature for 2 days. 1.34 g (0.025 mol) of ammonium chloride, 10 ml of absolute methanol and 20 ml of a saturated ethanolic ammonia solution are then added, and the mixture is stirred at 70° for one hour. After cooling, the reaction mixture is concentrated to dryness by evaporation and the residue is crystallised from dilute hydrochloric acid, yielding the title compound, m.p.>240°; MS(FAB): (M+H)+ =269; 1H-NMR (D2O): δ=8.39 (d,2H); 7.88 (d,2H) 2.46 (s,6H).

reactant | sodium | 0.023 g | [Na] | Na
reactant | 6,6'-dicyano-4,4'-dimethyl-2,2'-bipyridine | 0.01 mol, 2.34 g | C(#N)C1=CC(=CC(=N1)C1=NC(=CC(=C1)C)C#N)C | C14H10N4
reactant | ammonium chloride | 0.025 mol, 1.34 g | [Cl-].[NH4+]
reactant | ammonia | 20 ml | N | H3N
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 6,6'-Diamidino-4,4'-dimethyl-2,2'-bipyridine dihydrochloride | Cl.Cl.C(N)(=N)C1=CC(=CC(=N1)C1=NC(=CC(=C1)C)C(N)=N)C | InChI=1S/C14H16N6.2ClH/c1-7-3-9(19-11(5-7)13(15)16)10-4-8(2)6-12(20-10)14(17)18;;/h3-6H,1-2H3,(H3,15,16)(H3,17,18);2*1H
